US07250433B2
To a solution of 1-benzyl-5-(3-methyl-1-nitromethyl-butyl)-1H-tetrazole (1.41 g, 4.87 mmol) in MeOH (50 mL) was added 20% Pd/C (0.20 g) and concentrated HCl (0.6 g). The mixture was hydrogenated in a Parr shaker at 48 psi for 70 h, filtered, and concentrated. The residue was dissolved in 5 mL H2O and loaded onto a plug of DOWEX-50WX4-100 ion exchange resin. The column was eluted first with 100 mL H2O, then 50 mL 5% NH4OH (aq), and finally with 50 mL 10% NH4OH aq). The alkaline fractions were concentrated, and the solid obtained was dissolved in the minimum amount of MeOH. The solid was precipitated from MeOH with EtOAc, the solvent was withdrawn with a pipet, and the solid was then triturated with hot EtOAc. The solvent was drawn off with a pipet upon cooling and the remaining solid dried under vacuum to provide 0.33 g (40%) of 4-methyl-2-(1H-tetrazol-5-yl)-pentylamine as a colorless solid, mp>240° C. (dec). 1H NMR (D2O) δ 3.31 (m, 1H, —CHCH2NH2), 3.10 (m, 2H, —CH2NH2), 1.53 (m, 1H, —CHCHHCH—), 1.35 (m, 1H, —CHCHHCH—), 1.03 (m, 1H, CH3CH—), 0.66 (d, J=6.6 Hz, 3H, CH3—), 0.61 (d, J=6.6 Hz, 3H, CH3—). LRMS: m/z 168.0 (M−1). Anal. Calcd for C7H15N5: C, 49.68; H, 8.93; N, 41.38. Found: C, 49.51; H, 8.90; N, 41.20.

reactant | 1-benzyl-5-(3-methyl-1-nitromethyl-butyl)-1H-tetrazole | 4.87 mmol, 1.41 g | C(C1=CC=CC=C1)N1N=NN=C1C(CC(C)C)C[N+](=O)[O-] | C14H19N5O2
reactant | HCl | 0.6 g | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 4-methyl-2-(1H-tetrazol-5-yl)-pentylamine | 0.33 g, 40% | CC(CC(CN)C1=NN=NN1)C | C7H15N5
